US04732845
To 200 ml of acetonitrile were added 14.8 g of phthalic anhydride and 24.2 g of di(2-ethylhexyl)amine and the mixture was refluxed for 2 hours and then concentrated to provide 39.0 g of oily 2-{N,N-di(2-ethylhexyl)carbamoyl}-benzoic acid.

reactant | phthalic anhydride | 14.8 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | di(2-ethylhexyl)amine | 24.2 g | C(C)C(CNCC(CCCC)CC)CCCC | C16H35N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-{N,N-di(2-ethylhexyl)carbamoyl}-benzoic acid | 39.0 g | C(C)C(CN(C(=O)C1=C(C(=O)O)C=CC=C1)CC(CCCC)CC)CCCC | C24H39NO3
